US07902369B2
1) Manufacture of 7-bromo-2-ethyl-3-methyl-4-oxo-3,4-dihydroquinazoline
1.5 ml of triethyl orthopropionate and 30 μL of acetic acid were added to 1 ml solution of N-methyl-2-pyrolidine with 796 mg of N-methyl-2-amino4-bromobenzamide, and the mixture was stirred at 100° C. for 1 hour. Saturated sodium bicarbonate aqueous solution was added to the reaction solution, and extracted with ether. Ether layer was washed with saturated saline solution, and dried with anhydrous magnesium sulfate. After distilling out the solvents under reduced pressure, the residues were separated and purified by silicagel column chromatography (hexane/ethyl acetate=4/1), to obtain 653 mg of the above compound as a colorless solid.

reactant | triethyl orthopropionate | 1.5 ml | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | N-methyl-2-amino4-bromobenzamide | 796 mg | CNC(C1=C(C=C(C=C1)Br)N)=O | C8H9BrN2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 30 μL | C(C)(=O)O | C2H4O2
product | 7-bromo-2-ethyl-3-methyl-4-oxo-3,4-dihydroquinazoline | 653 mg | BrC1=CC=C2C(N(C(=NC2=C1)CC)C)=O | C11H11BrN2O
